US09216937B2
20 mg catalyst (1.7% Pt-0.6% Rh/Davisil 635) was dispensed into a 1.2 mL vial. Glacial acetic acid was added followed by a 10% water/acetic acid solution according to Table 1. 50 μL of an acetic acid solution containing 1.2 M HBr and 1.6 M D-glucaric acid was added bringing the final solution volume to 100 μL. The vials were transferred to a pressure reactor which was then sealed, purged with nitrogen and pressurized with hydrogen to 820 psig at room temperature. The reactor was agitated and heated to 160° C. for 90 minutes. After 90 minutes, the reactor was cooled to room temperature, vented, and purged with nitrogen prior to being unsealed. Adipic acid yields were determined by mass spectrometry relative to a d8-adipic acid internal standard.

reactant | water acetic acid | O.C(C)(=O)O
reactant | HBr | 1.2 M | Br | BrH
reactant | D-glucaric acid | 1.6 M | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)C(=O)O)O | C6H10O8
solvent | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
product | Adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
